US07700634B2
1-(Cyclohexyl)methyl-3-(5-ethyl-5,6-dihydro-4H-pyrrolo[3,4-d]isothiazol-3-yl)-7-methoxy-1H-indole, hydrochloride salt
To a solution of methanesulfonic acid {4-chloromethyl-3-[1-(cyclohexyl)methyl-7-methoxy-1H-indol-3-yl]-isothiazol-5-yl}methyl ester (90 mg, 0.19 mmol) in tetrahydrofuran (1 ml) was added ethylamine (0.186 ml, 0.37 mmol) and triethylamine (0.05 ml, 0.37 mmol) and the reaction mixture subjected to microwave irradiation at 150° C. for 15 minutes. The reaction mixture was poured into a separating funnel, diluted with dichloromethane (30 ml) and washed with 5% aqueous sodium carbonate solution (2×10 ml), brine (10 ml), dried over magnesium sulfate and the solvent removed in vacuo. The reaction was repeated on a 0.166 mmol scale to give the same intermediate. The crude products were combined and purified by flash column chromatography using ethyl acetate to give the title compound (36 mg, 0.09 mmol) as the free base. The free base was dissolved in dichloromethane and hydrogen chloride (2M solution in diethyl ether; 1 ml, 2 mmol) was added. The mixture was concentrated in vacuo to afford the title compound as a 1:1 hydrochloride salt. 1H NMR (400 MHz, CD3OD): 0.97-1.15 (2H, m), 1.15-1.27 (3H, m), 1.47 (3H, t, J 7), 1.52-1.61 (2H, m), 1.62-1.77 (3H, m), 1.81-1.95 (1H, m), 3.63 (2H, q, J 7), 3.95 (3H, s), 4.28 (2H, d, J 7), 4.62-4.75 (2H, m), 4.95-5.12 (2H, m), 6.77 (1H, d, J 8), 7.09 (1H, t, J 8), 7.43 (1H, s), 8.01 (1H, d, J 8); EsIMS: m/z 396.0 [M+H]+, 353.4, 351.3, 320.3.

reactant | methanesulfonic acid {4-chloromethyl-3-[1-(cyclohexyl)methyl-7-methoxy-1H-indol-3-yl]-isothiazol-5-yl}methyl ester | 0.19 mmol, 90 mg | ClCC=1C(=NSC1COS(=O)(=O)C)C1=CN(C2=C(C=CC=C12)OC)CC1CCCCC1 | C22H27ClN2O4S2
reactant | ethylamine | 0.37 mmol, 0.186 ml | C(C)N | C2H7N
reactant | triethylamine | 0.37 mmol, 0.05 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-(Cyclohexyl)methyl-3-(5-ethyl-5,6-dihydro-4H-pyrrolo[3,4-d]isothiazol-3-yl)-7-methoxy-1H-indole, hydrochloride salt | 0.09 mmol, 36 mg | Cl.C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C1=NSC2=C1CN(C2)CC | InChI=1S/C23H29N3OS.ClH/c1-3-25-13-19-21(15-25)28-24-22(19)18-14-26(12-16-8-5-4-6-9-16)23-17(18)10-7-11-20(23)27-2;/h7,10-11,14,16H,3-6,8-9,12-13,15H2,1-2H3;1H
